US07737149B2
A solution of ethyl 4-fluorobenzoate (0.293 mL, 2 mmol) and 1-isopropyl-1,4-diazepane (0.539 mL, 4.00 mmol) in dimethylsulfoxide (10 mL), was heated at 120° C. for 18 h. The reaction mixture was diluted with water (75 ml) and extracted with ethyl acetate (3×25 ml). The extracts were washed with saturated sodium chloride solution (50 ml), dried over MgSO4, filtered and evaporated to dryness. The crude product was purified by silica column chromatography, eluting with a gradient of 0 to 5% MeOH in DCM. Pure fractions were evaporated to dryness to afford ethyl 4-(4-isopropyl-1,4-diazepan-1-yl)benzoate (0.212 g, 36.5%) as a yellow oil.

reactant | ethyl 4-fluorobenzoate | 2 mmol, 0.293 mL | FC1=CC=C(C(=O)OCC)C=C1 | C9H9FO2
reactant | 1-isopropyl-1,4-diazepane | 4.00 mmol, 0.539 mL | C(C)(C)N1CCNCCC1 | C8H18N2
solvent | dimethylsulfoxide | 10 mL | CS(=O)C | C2H6OS
solvent | water | 75 ml | O | H2O
product | ethyl 4-(4-isopropyl-1,4-diazepan-1-yl)benzoate | 0.212 g, 36.5% | C(C)(C)N1CCN(CCC1)C1=CC=C(C(=O)OCC)C=C1 | C17H26N2O2
